US05244910
Racemic 1-(2-furyl)-1-pentanol
Freshly distilled furfural (233.5 g, 2.43 mol) was dissolved in 200 mL freshly distilled THF and added dropwise to a solution of butylmagnesium bromide (2.0 M in THF, 1460 mL, 2.92 mol) at 0° C. under dry nitrogen. After the addition was complete, the mixture was allowed to warm to room temperature overnight. The reaction was recooled to 0° C. and carefully poured into 2 L of cold sat. NH4Cl. The layers were separated, and the aqueous phase was extracted with ether. The combined organic layers were washed with saturated NaCl, dried over MgSO4, evaporated, and vacuum distilled to give 325.6 g (87%): bp 72°-73° C. (0.6 mmHg); 1H NMR (300 MHz, CDCl3) d 7.38 (1H, dd J=1 Hz), 6.33 (1H, m), 6.22 (1H, dd, J=3 Hz), 4.67 (1H, t, J=6 Hz), 2.9 (3H, m), 1.35 (4H, m), 0.90 (3H, t, J=7 Hz); mass spectrum (FAB): 170 (M+NH4).

reactant | furfural | 2.43 mol, 233.5 g | C(C1=CC=CO1)=O | C5H4O2
reactant | butylmagnesium bromide | 2.92 mol, 2.0 M, 1460 mL | C(CCC)[Mg]Br
reactant | NH4Cl | 2 L | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | Racemic 1-(2-furyl)-1-pentanol | O1C(=CC=C1)C(CCCC)O | C9H14O2
